US04518416
5.25 g (0.02 mol) of the S-enantiomer of lactyl chloride tosylate were added to a mixture of 2.24 g (0.02 mol) of 1-(2-hydroxyethyl)-pyrazole, 2 g (0.02 mol) of triethylamine and 50 ml of toluene at 20° C., while stirring. The reaction mixture was stirred at 20° C. for a further 14 hours and then worked up by adding water, extracting the mixture several times with toluene, drying the combined organic phases and concentrating them by stripping off the solvent under reduced pressure. 4.7 g (69.5% of theory) of the S-enantiomer of 2-(pyrazol-1-yl)-ethyl 2-tosyloxy-propionate were obtained in this manner.

reactant | lactyl chloride tosylate | S(=O)(=O)(O)C1=CC=C(C)C=C1.C(C(O)C)(=O)Cl
reactant | 1-(2-hydroxyethyl)-pyrazole | 0.02 mol, 2.24 g | OCCN1N=CC=C1 | C5H8N2O
reactant | triethylamine | 0.02 mol, 2 g | C(C)N(CC)CC | C6H15N
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-(pyrazol-1-yl)-ethyl 2-tosyloxy-propionate | S(=O)(=O)(C1=CC=C(C)C=C1)OC(C(=O)OCCN1N=CC=C1)C | C15H18N2O5S
